US05849735
4-[(Dimethylamino)methylene]-1,2,3,4-tetrahydro-1-[(2-methylphenyl)sulfonyl]-5H-1-benzazepin-5-one
A mixture of 1.89 g of 1,2,3,4-tetrahydro-1-[(2-methylphenyl)sulfonyl]-5H-1-benzazepin-5-one and 2.47 ml of tert-butoxy-bis(dimethylamino)methane (Bredericks reagent) in 10 ml of dichloromethane is heated under argon on a steam bath for 16 hours. The mixture is concentrated to dryness under vacuum and the residue dissolved in CH2Cl2. The solution is filtered through a thin pad of hydrous magnesium silicate and the pad washed with 5% ethyl acetate in CH2Cl2. The filtrate is concentrated to dryness and the residue (1.96 g) crystallized from CH2Cl2 -hexane to give 0.85 g of crystals, m.p. 180°-185° C. A second crop of crystals (0.85 g) is recovered from the mother liquors and an additional 0.30 g is recovered from washing the pad of hydrous magnesium silicate with ethyl acetate.

reactant | 1,2,3,4-tetrahydro-1-[(2-methylphenyl)sulfonyl]-5H-1-benzazepin-5-one | 1.89 g | CC1=C(C=CC=C1)S(=O)(=O)N1CCCC(C2=C1C=CC=C2)=O | C17H17NO3S
reactant | tert-butoxy-bis(dimethylamino)methane | 2.47 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[(Dimethylamino)methylene]-1,2,3,4-tetrahydro-1-[(2-methylphenyl)sulfonyl]-5H-1-benzazepin-5-one | 0.85 g | CN(C)C=C1CCN(C2=C(C1=O)C=CC=C2)S(=O)(=O)C2=C(C=CC=C2)C | C20H22N2O3S
